US08895745B2
Step 4: 6-(4-Fluoro-phenyl)-3-iodo-pyrazolo[1,5-a]pyrazine
N-iodosuccinimide (13 mg, 0.06 mmol) was added in one portion to a stirred solution of 6-(4-fluoro-phenyl)-pyrazolo[1,5-a]pyrazine (11 mg, 0.05 mmol) in dry DMF (0.5 ml) at RT under N2. After 30 minutes, a further portion of N-iodosuccinimide (13 mg, 0.06 mmol) in DMF (0.2 mmol) was added. After a further 30 minutes at RT the mixture was heated to 50° C. for 90 minutes. After cooling to RT, the reaction was quenched with saturated aqueous sodium thiosulphate/saturated NaHCO3 (1:1, 1 ml). The mixture was stirred at RT for 1 hour then partitioned between CH2Cl2/H2O. The mixture was passed through a phase separating cartridge. The organic layer was evaporated to give the title compound (13 mg, solid). 1H NMR (400 MHz, CDCl3): 9.01 (1H, d), 8.69 (1H, d), 8.05 (1H, s), 8.00-7.90 (2H, m), 7.24-7.14 (2H, m).

reactant | N-iodosuccinimide | 0.06 mmol, 13 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | 6-(4-fluoro-phenyl)-pyrazolo[1,5-a]pyrazine | 0.05 mmol, 11 mg | FC1=CC=C(C=C1)C=1N=CC=2N(C1)N=CC2 | C12H8FN3
reactant | N-iodosuccinimide | 0.06 mmol, 13 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.2 mmol | CN(C)C=O | C3H7NO
product | 6-(4-Fluoro-phenyl)-3-iodo-pyrazolo[1,5-a]pyrazine | 13 mg | FC1=CC=C(C=C1)C=1N=CC=2N(C1)N=CC2I | C12H7FIN3
